US08895547B2
1-(3-Benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide
Under inert gas, 3.10 g of C-(3-benzyloxyphenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide were initially charged in 60 ml of THF, and then, at a temperature of −75° C., 12.00 ml of a 1.8 N phenyllithium solution were added dropwise. The reaction mixture was allowed to come to 0° C. and stirred briefly, then cooled again to −75° C., and 3.80 ml of acetone were added dropwise. After stirring for 10 minutes, 3 ml of trifluoroacetic acid were added and the mixture was allowed to come to room temperature. After the removal of the solvent under reduced pressure, the residue was dissolved in 20 ml of dichloromethane and admixed with 5.00 ml of trifluoroacetic acid. After stirring at room temperature for 2.5 hours, the reaction solution was neutralized cautiously with 2 N aqueous sodium hydroxide solution and then stirred overnight. The precipitate formed was filtered off with suction, washed with dichloromethane and cold water, and coevaporated twice with toluene. The crude product was purified by means of normal phase chromatography using a Flashmaster with a dichloromethane/methanol gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (2.06 g) with a molecular weight of 335.4 g/mol (C17H21NO4S).

reactant | C-(3-benzyloxyphenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 3.10 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C23H25NO5S
reactant | phenyllithium | 1.8 N | C1(=CC=CC=C1)[Li]
reactant | acetone | 3.80 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-(3-Benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 2.06 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C)(C)O)S(=O)(=O)N | C17H21NO4S
